US07572809B2
Similar procedure as described in example 131 was used, starting from (1-chloro-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine and benzo[b]thiophene-3-boronic acid to give (1-benzo[b]thiophen-3-yl-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine. LC-MS m/e 357(MH+).

reactant | (1-chloro-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine | ClC1=NC(=CC2=CC=CC=C12)NC1=NNC(=C1)C | C13H11ClN4
reactant | benzo[b]thiophene-3-boronic acid | S1C2=C(C(=C1)B(O)O)C=CC=C2 | C8H7BO2S
product | (1-benzo[b]thiophen-3-yl-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine | S1C2=C(C(=C1)C1=NC(=CC3=CC=CC=C13)NC1=NNC(=C1)C)C=CC=C2 | C21H16N4S
